US05606037
Monobromomethyl (5,8-dimethoxy-3,4-dihydrobenzo [2,3-C] pyran-3-yl) ketone
To a stirred solution of methyl (5,8-dimethoxy-3,4-dihydrobenzo[2,3-c] pyran-3-yl) ketone (1.905 g, 8.04 mmol) and trimethylsilyl chloride (1.530 μl, 12.0 mmol) in tetrahydrofuran (48 ml) under nitrogen, at -78° C., was slowly added lithium diisopropyl amide (diisopropyl amine 10.71 mmol, n-butyl lithium 4.26 ml of a 2.5M solution in tetrahydrofuran, and 6.0 ml of tetrahydrofuran). After stirring for 10 minutes the temperature was raised to 0° C., and stirring was continued for 10 more minutes. Solvent was removed and the crude product was dissolved in 48 ml of tetrahydrofuran, N-bromosuccinamide (1,716 mg, 9.66 mmol) was added slowly to the solution. After 10 minutes, the reaction system was worked up with saturated aqueous sodium bicarbonate and washed with brine. The titled compound was obtained following flash chromatography (hexanes:ethyl acetate, 9:1) of the crude product. 1H NMR (benzene-d6, 250 MHz) -- : 2.68 (dd,1H,HCHa), 3.16 (dd,1H,HCHe), 3.28 (s,3H,OCH3), 3.32 (s,3H,OCH3), 3.73 (dd,1H,J=4.0,11.8 Hz,CH), 3.81 (dd,2H,CH2Br), 4.51 (d,1H, J=15.8 Hz, HCHaO), 5.05 (d,1H,J=15.8 Hz,HCHeO), 6.335 (dd,2H,ArH),

reactant | methyl (5,8-dimethoxy-3,4-dihydrobenzo[2,3-c] pyran-3-yl) ketone | 8.04 mmol, 1.905 g | COC1=CC=C(C=2COC(CC21)C(=O)C)OC | C13H16O4
reactant | trimethylsilyl chloride | 12.0 mmol, 1.530 μl | C[Si](C)(C)Cl | C3H9ClSi
reactant | lithium diisopropyl amide | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropyl amine | 10.71 mmol | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 4.26 ml | C(CCC)[Li]
reactant | N-bromosuccinamide | 9.66 mmol, 1,716 mg | BrNC(CCC(=O)N)=O | C4H7BrN2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 48 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6.0 ml | O1CCCC1 | C4H8O
product | Monobromomethyl (5,8-dimethoxy-3,4-dihydrobenzo [2,3-C] pyran-3-yl) ketone | COC1=CC=C(C=2COC(CC21)C(=O)CBr)OC | C13H15BrO4
